US04473498
A neutral solution of 31.9 parts of 1-amino-8-hydroxynaphthalene-3,6-disulfonic acid in 300 parts of water is prepared, 30 parts of crystalline sodium acetate are added and the mixture is cooled to 5° to 10° C. 31 parts of finely ground 4-(β-chloroethylsulfonyl)-methyl-benzoyl chloride are added in the course of 1 to 2 hours, with stirring, and stirring is then continued for several hours. A diazonium salt solution obtained from 14.1 parts of 2-sulfo-aniline are then allowed to run in, and the coupling reaction is carried out at a pH value of 6 to 7. The coupling solution is then clarified and the azo compound prepared is isolated from the filtrate in the customary manner, for example by evaporation, spray-drying or salting out.

reactant | 1-amino-8-hydroxynaphthalene-3,6-disulfonic acid | NC1=CC(=CC2=CC(=CC(=C12)O)S(=O)(=O)O)S(=O)(=O)O | C10H9NO7S2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 4-(β-chloroethylsulfonyl)-methyl-benzoyl chloride | ClCCS(=O)(=O)C1=CC(=C(C(=O)Cl)C=C1)C | C10H10Cl2O3S
reactant | water | O | H2O
product | 2-sulfo-aniline | S(=O)(=O)(O)C1=C(N)C=CC=C1 | C6H7NO3S
